US08729274B2
cis-2-Benzyl-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (18.60 mmol, 5.8 g) was dissolved in toluene and heated to reflux. Ethyl carbonochloridate (55.8 mmol, 5.33 ml, 6.06 g) was added dropwise and the reaction mixture left to stir at reflux for 2 hours. TLC and mass spec showed no starting material. Solvent removed in vacuo and crude material purified by silica column chromatography (eluting with 0-30% ethyl acetate:heptane) to give cis-ethyl 6-chloro-3a-methyl-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate (4.89 g), m/z=294.3 [M+H]+.

reactant | cis-2-Benzyl-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 18.60 mmol, 5.8 g | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3Cl)C | C20H22ClN
reactant | Ethyl carbonochloridate | 55.8 mmol, 5.33 ml, 6.06 g | C(OCC)(=O)Cl | C3H5ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cis-ethyl 6-chloro-3a-methyl-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate | 4.89 g | ClC1=CC=CC=2[C@H]3CN(C[C@]3(CCC21)C)C(=O)OCC | C16H20ClNO2
